US07741327B2
To a solution of (S)-2-{4-[3-(2-hydroxy-2-methyl-propyl)-phenoxy]-2-oxo-2,5-dihydro-pyrrol-1-yl}-4-methyl-pentanoic acid methyl ester (0.480 g, 1.28 mmol) in tetrahydrofuran (10 mL) and water (2 mL) was added lithium hydroxide monohydrate (0.058 g 1.35 mmol). The mixture was stirred at room temperature for 2 h. The reaction mixture was poured into water and washed with diethyl ether. The aqueous phase was acidified with 1N aqueous hydrochloric acid solution (pH<2), and extracted with ethyl acetate. The combined organic layers were dried over sodium sulfate, filtered and concentrated in vacuo. The residue was precipitated from dichloromethane with an excess of hexanes to afford (S)-2-{4-[3-(2-hydroxy-2-methyl-propyl)-phenoxy]-2-oxo-2,5-dihydro-pyrrol-1-yl}-4-methyl-pentanoic acid (0.410 g, 89%), as an off-white solid.

reactant | (S)-2-{4-[3-(2-hydroxy-2-methyl-propyl)-phenoxy]-2-oxo-2,5-dihydro-pyrrol-1-yl}-4-methyl-pentanoic acid methyl ester | 1.28 mmol, 0.480 g | COC([C@H](CC(C)C)N1C(C=C(C1)OC1=CC(=CC=C1)CC(C)(C)O)=O)=O | C21H29NO5
reactant | lithium hydroxide monohydrate | 1.35 mmol, 0.058 g | O.[OH-].[Li+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | 2 mL | O | H2O
product | (S)-2-{4-[3-(2-hydroxy-2-methyl-propyl)-phenoxy]-2-oxo-2,5-dihydro-pyrrol-1-yl}-4-methyl-pentanoic acid | 0.410 g, 89% | OC(CC=1C=C(OC2=CC(N(C2)[C@H](C(=O)O)CC(C)C)=O)C=CC1)(C)C | C20H27NO5
